.SubCkt GCH32ER71H475KE01 [_net1] [_net2]
.param K01=4.6486e-06
.param M01=1.0638e+07
.param L02=6.7695e-11
.param M03=2.3876e-03
.param K04=5.0932e-04
.param M04=8.5671e+00
.param K05=4.9106e-04
.param M05=8.8151e-01
.param K06=4.9618e-04
.param M06=9.5579e-02
.param K07=5.2685e-04
.param M07=1.4412e-02
.param K08=4.1157e-04
.param M08=2.8302e-03
.param L09=2.4829e-11
.param M09=3.1390e-02
.param L10=2.6979e-10
.param M10=2.5527e-02
.param K11=7.8588e-06
.param L11=1.3876e-10
.param M11=1.8404e-02
.param K12=4.6064e-06
.param L12=9.7905e-11
.param M12=1.2519e-02
.param K13=3.0263e-11
.param L13=7.1575e-11
.param M13=3.8443e+00
.param K14=2.2204e-12
.param L14=2.3003e-10
.param M14=7.8788e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net2 {K14}
L14 _net1314 _net2 {L14}
R14 _net1314 _net2 {M14}
.ends GCH32ER71H475KE01

.SubCkt GCH32ER71A226KE01 [_net1] [_net2]
.param K01=2.1913e-05
.param M01=2.2727e+06
.param L02=1.4269e-10
.param M03=1.3226e-03
.param K04=3.3688e-03
.param M04=1.4697e+00
.param K05=2.9790e-03
.param M05=2.1411e-01
.param K06=2.2151e-03
.param M06=3.7095e-02
.param K07=3.5240e-03
.param M07=2.6771e-03
.param K08=6.5755e-03
.param M08=4.9930e-04
.param L09=2.4281e-11
.param M09=3.8141e-02
.param L10=4.6837e-10
.param M10=1.3573e-02
.param L11=2.9306e-11
.param M11=8.0752e-03
.param K12=4.1131e-05
.param L12=1.8329e-10
.param M12=8.4856e-03
.param K13=3.1256e-05
.param L13=1.0390e-10
.param M13=5.9906e-03
.param K14=1.2407e-11
.param L14=5.5988e-11
.param M14=5.5216e+00
.param K15=3.8645e-12
.param L15=8.8770e-11
.param M15=2.8815e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
C08 _net0708 _net0809 {K08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GCH32ER71A226KE01

.SubCkt GCH32ER70J476KE01 [_net1] [_net2]
.param K01=3.1196e-05
.param M01=1.0638e+06
.param L02=1.0486e-10
.param M03=1.2464e-03
.param K04=9.6066e-04
.param M04=1.4061e+00
.param K05=1.1075e-03
.param M05=1.3496e-01
.param K06=1.0079e-03
.param M06=1.7164e-02
.param K07=7.4034e-04
.param M07=2.3033e-03
.param L08=1.7295e-11
.param M08=2.3345e-02
.param L09=4.6915e-11
.param M09=1.3583e-02
.param L10=4.3495e-10
.param M10=1.0535e-02
.param K11=7.3513e-05
.param L11=1.3563e-10
.param M11=4.8121e-03
.param K12=3.3217e-05
.param L12=1.3426e-10
.param M12=4.3191e-03
.param K13=2.9494e-11
.param L13=7.8613e-11
.param M13=1.0362e+01
.param K14=6.3729e-12
.param L14=1.5724e-10
.param M14=2.8022e+01
.param K15=5.4685e-12
.param L15=1.2285e-10
.param M15=2.5285e+01
C01 _net1 _net0102 {K01}
R01 _net1 _net0102 {M01}
L02 _net0102 _net0203 {L02}
R03 _net0203 _net0304 {M03}
C04 _net0304 _net0405 {K04}
R04 _net0304 _net0405 {M04}
C05 _net0405 _net0506 {K05}
R05 _net0405 _net0506 {M05}
C06 _net0506 _net0607 {K06}
R06 _net0506 _net0607 {M06}
C07 _net0607 _net0708 {K07}
R07 _net0607 _net0708 {M07}
L08 _net0708 _net0809 {L08}
R08 _net0708 _net0809 {M08}
L09 _net0809 _net0910 {L09}
R09 _net0809 _net0910 {M09}
L10 _net0910 _net1011 {L10}
R10 _net0910 _net1011 {M10}
C11 _net1011 _net1112 {K11}
L11 _net1011 _net1112 {L11}
R11 _net1011 _net1112 {M11}
C12 _net1112 _net1213 {K12}
L12 _net1112 _net1213 {L12}
R12 _net1112 _net1213 {M12}
C13 _net1213 _net1314 {K13}
L13 _net1213 _net1314 {L13}
R13 _net1213 _net1314 {M13}
C14 _net1314 _net1415 {K14}
L14 _net1314 _net1415 {L14}
R14 _net1314 _net1415 {M14}
C15 _net1415 _net2 {K15}
L15 _net1415 _net2 {L15}
R15 _net1415 _net2 {M15}
.ends GCH32ER70J476KE01
